### PR TITLE
[Merged by Bors] - feat: The Kruskal-Katona theorem

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove the Kruskal-Katona theorem.

From LeanCamCombi

Co-authored-by: Bhavik Mehta <bhavikmehta8@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 1]
```diff
@@ -0,0 +1,448 @@
...
+
+attribute [-instance] Fintype.decidableForallFintype
+
+-- TODO: There's currently a diamond
+-- import Mathlib.Data.Fin.Basic
+-- example (n : ℕ) : instDecidableEqFin n = instDecidableEq := rfl
+attribute [-instance] instDecidableEqFin
+
+/-- This measures roughly how compressed the family is. (Note that it does depend on the order of
+the ground set, unlike Kruskal-Katona itself). -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:237]: This isn't strictly true, since the definition of initial segments of colex that's used below depends on the order of the ground set. What is true, however, is that the *size* of C doesn't depend on the order of the ground set. 
The original motivation for the todo on the order iso between colex and Nat was to make the statement of KK genuinely not depend on the order of the ground set, so I wonder if @apnelson1's recent work makes the statements below nicer.

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 2]
```diff
@@ -0,0 +1,448 @@
...
+    · exact (disjoint_right.1 disj (max'_mem _ hU) $ heq.symm ▸ max'_mem _ _).elim
+    · assumption
+  refine hB ?_
+  rw [← (h₂ _ _ ⟨disj, card_sdiff_comm hAB'.symm, hV, hU, smaller⟩).eq]
+  exact mem_compression.2 (Or.inr ⟨hB, A, hA, compress_sdiff_sdiff _ _⟩)
+
+attribute [-instance] Fintype.decidableForallFintype
+
+-- TODO: There's currently a diamond
+-- import Mathlib.Data.Fin.Basic
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:232]: To the Lean 4 repo?

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:237]: I mean, the better way of doing things is the k-cascade representation, right? It's a bit annoying that I lost my work on that due to some git misshap, but I could possibly redo it if you think that making the statement order-independent is so important

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 3]
```diff
@@ -0,0 +1,448 @@
...
+  have := exists_subsuperset_card_eq hBk (Nat.le_add_left _ i) ?_
+  obtain ⟨C, BsubC, hCrange, hcard⟩ := this
+  rw [hB, ← Nat.add_sub_assoc hir, Nat.add_sub_cancel_left] at hcard
+  refine ⟨C, ?_, BsubC, ?_⟩; rw [mem_powersetCard]; exact ⟨hCrange, hcard⟩
+  · rw [card_sdiff BsubC, hcard, hB, Nat.sub_sub_self hir]
+  · rwa [hB, card_attachFin, card_range, ← Nat.add_sub_assoc hir, Nat.add_sub_cancel_left]
+
+end KK
+
+/-- The **Erdős–Ko–Rado theorem**: The maximum size of an intersecting family in `α` where all sets
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean]: #15705

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:237]: I think we shouldn't write something in a docstring that's false

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:232]: Is this a Lean 4 issue? That's not clear from the description you give here.

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 4]
```diff
@@ -0,0 +1,344 @@
...
+
+open Finset Colex Nat UV
+open scoped BigOperators FinsetFamily
+
+variable {α : Type*} [LinearOrder α] {s U V : Finset α} {n : ℕ}
+
+namespace UV
+
+/-- Applying the compression makes the set smaller in colex. This is intuitive since a portion of
+the set is being "shifted 'down" as `max U < max V`. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:166]: weird quotes here?

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:237]: I don't think the docstring is false? It's true that `kruskal_katona` is order-dependent, but it's also true that the (usual) mathematical statement of Kruskal-Katona is not.

Comment (b-mehta) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:237]: Then let's make sure that's clear in the docstring

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:232]: It's a bit of a mix since it goes through `LinearOrder.liftWithOrd` which is in mathlib, but the original sin is that `instDecidableEqFin` does not agree with `decidable_of_iff`

**Comment by b-mehta** [comment]
Annoying. Let's at least make sure this issue is logged somewhere else -
even if only on zulip - and not just in this file

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 5]
```diff
@@ -0,0 +1,344 @@
...
+
+* A special case of `iterated_kk` which is often more practical to use.
+
+```lean
+theorem lovasz_form {r k i : ℕ} {𝒜 : Finset (Finset (Fin n))} (hir : i ≤ r)
+  (hrk : r ≤ k) (hkn : k ≤ n) (h₁ : (𝒜 : Set (Finset α)).Sized r) (h₂ : choose k r ≤ 𝒜.card) :
+  choose k (r-i) ≤ (∂^[i] 𝒜).card
+```
+
+* Erdos-Ko-Rado theorem, giving the upper bound on the size of an intersecting
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:56]: No longer present

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean]: > Annoying. Let's at least make sure this issue is logged somewhere else - even if only on zulip - and not just in this file

https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/DecidableEq.20diamond.20on.20Fin

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 6]
```diff
@@ -0,0 +1,344 @@
...
+  -- Are there any compressions we can make now?
+  set usable : Finset (Finset (Fin n) × Finset (Fin n)) :=
+    univ.filter fun t ↦ UsefulCompression t.1 t.2 ∧ ¬ IsCompressed t.1 t.2 A
+  obtain husable | husable := usable.eq_empty_or_nonempty
+  -- No. Then where we are is the required set family.
+  · refine ⟨A, le_rfl, rfl, h, fun U V hUV ↦ ?_⟩
+    rw [eq_empty_iff_forall_not_mem] at husable
+    by_contra h
+    exact husable ⟨U, V⟩ $ mem_filter.2 ⟨mem_univ _, hUV, h⟩
+  -- Yes. Then apply the compression, then keep going
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:287]:
```suggestion
  -- Yes. Then apply the smallest compression, then keep going
```

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 7]
```diff
@@ -0,0 +1,344 @@
...
+/-- The main Kruskal-Katona helper: use induction with our measure to keep compressing until
+we can't any more, which gives a set family which is fully compressed and has the nice properties we
+want. -/
+private lemma kruskal_katona_helper {r : ℕ} (𝒜 : Finset (Finset (Fin n)))
+    (h : (𝒜 : Set (Finset (Fin n))).Sized r) :
+    ∃ ℬ : Finset (Finset (Fin n)), (∂ ℬ).card ≤ (∂ 𝒜).card ∧ 𝒜.card = ℬ.card ∧
+      (ℬ : Set (Finset (Fin n))).Sized r ∧ ∀ U V, UsefulCompression U V → IsCompressed U V ℬ := by
+  classical
+  revert h
+  apply WellFounded.recursion (InvImage.wf familyMeasure wellFounded_lt) 𝒜
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:276]: tempting to try strong induction on family measure here... but can leave it for now if you want

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 8]
```diff
@@ -0,0 +1,344 @@
...
+
+/-- This measures roughly how compressed the family is.
+
+Note that this does depend on the order of the ground set, unlike the Kruskal-Katona theorem itself
+(although `kruskal_katona` currently is stated in an order-dependent manner). -/
+private def familyMeasure (𝒜 : Finset (Finset (Fin n))) : ℕ := ∑ A in 𝒜, ∑ a in A, 2 ^ (a : ℕ)
+
+/-- Applying a compression strictly decreases the measure. This helps show that "compress until we
+can't any more" is a terminating process. -/
+lemma familyMeasure_compression_lt_familyMeasure {U V : Finset (Fin n)} {hU : U.Nonempty}
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:242]: private, probably? familyMeasure is private  and `kruskal_katona_helper` is too

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 9]
```diff
@@ -0,0 +1,344 @@
...
+    (h₃ : IsInitSeg 𝒞 r) : (∂ 𝒞).card ≤ (∂ 𝒜).card := by
+  obtain ⟨ℬ, card_le, t, hℬ, fully_comp⟩ := UV.kruskal_katona_helper 𝒜 h₁
+  convert card_le
+  have hcard : card ℬ = card 𝒞 := t.symm.trans h₂
+  obtain CB | BC :=
+    h₃.total (UV.isInitSeg_of_compressed hℬ fun U V hUV ↦ by convert fully_comp U V hUV)
+  · exact eq_of_subset_of_card_le CB hcard.le
+  · exact (eq_of_subset_of_card_le BC hcard.ge).symm
+
+/-- We can strengthen Kruskal-Katona slightly: note the middle and has been relaxed to a `≤`.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:325]:
```suggestion
/-- We can strengthen Kruskal-Katona slightly: note the cardinality assumption has been relaxed to a `≤`.
```

**Review by b-mehta — APPROVED** [review]
LGTM. Let's make sure to get another review on this though, again I wrote too much of it!

maintainer merge

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean:242]: Rah yes I always assume that lemmas whose type include a private definition are themselves private, but this seems not to be the case.

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean]: That was easy :)

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean]: I have opened https://github.com/leanprover/lean4/issues/5002 to possibly fix this confusing behavior

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by bryangingechen** [comment]
bors r+
Just in case,
bors d+
